Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lantus U-100 Insulin
 
Attending: ___
 
Chief Complaint:
Right leg pain
 
Major Surgical or Invasive Procedure:
Irrigation and debridement of right tibia ___
right tibia I&D, hardware removal, npwt ___
Washout right knee septic arthritis, Incision and drainage 
tibia, negative pressure wound therapy with instillation ___
PICC placement ___
dobhoff ___
right tibia I&D ___
right tibia washout, medial gastroc flap, skin graft, placement 
of antibiotic spacer tibia ___
 
History of Present Illness:
___ is a ___ year old woman with diabetes, peripheral 
vascular disease, Alzheimer disease, history of provoked DVT/PE 
w filter and AC, and history of upper GI bleed who presents to 
the ED with fever, cough, and vomiting. She was last at ___ in 
___. The patient was recently at ___ for a right tib/fib 
fracture with ORIF. She was discharged to ___ and had 
been clinically about the same until the past couple days when 
she developed vomiting. Nutrition had been an issue even before 
her last hospitalization, but since yesterday she has vomited 
several times which is new for her. ___ also recorded a 
fever of ___ F. She remains oriented to person, place, and month 
(baseline) but had not reported any other symptoms to ___ 
___. Staff there reported coughing, but the patient's daughter 
had not noticed any when she visited. 

In the ED VS were WNL, but she was found to have a leukocytosis 
to 15 and ___ with Cr of 1.8. She received 1 L NS. U/A with 
bacteria and WBCs but lots of epis (she was treated with 3 days 
of ceftriaxone for E. coli last admission). CXR without a clear 
infectious process.

On arrival to the floor, however, we discovered after removing 
her RLE brace and dressing that purulent fluid is draining from 
the ORIF incision. She also has what appears to be a pressure 
wound on the lateral RLE from the brace. Pus was expressed from 
the incision and sent for culture.

ROS: Unable to obtain accurate ROS secondary to dementia 
(patient seemed to be answer with "yes" for every question). She 
winced with pain when manipulating her leg, however.
 
Past Medical History:
-hyperlidemia 
-diabetes
-insomnia
-hypertension
-macular degeneration
-dementia 
-osteoarthtis 
-peripheral vascular disease
-tib/fib fracture ___ s/o orif
-DVT/PE s/p IVC filter ___
-diastolic heart failure
-rectal prolapse
-pvd
-chronic pain on chronic opioids
 
Social History:
___
Family History:
-denies hx of colon cancer

 
Physical Exam:
Exam:
Vital signs: 
Today 13:55 
98.7 
88 
142/77 
20 
98% RA 
GENERAL: Awake, not in acute distress
EYES: Anicteric sclera
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: RRR, no murmur
RESP: lungs clear to auscultation bilaterally without wheezes or
crackles
GI: Abdomen soft, non-distended, non-tender to palpation.  
MSK: Purulent fluid draining from ORIF incision. Tender to
palpation in this area. 4.5x 2 CM wound under brace on lateral
aspect of leg
SKIN: stasis changes of lower legs
NEURO: Able to report name, place, and month. Said her birth 
year
for the year. Conversing. Daughter says she is close to baseline
though seems more fatigued
PSYCH: pleasant, appropriate affect

DISCHARGE PHYSICAL EXAM:
=========================
Temp: 98.5 (Tm 99.3), BP: 124/65 (124-157/62-73), HR: 74 
(74-93), RR: 22 (___), O2 sat: 95% (91-95), O2 delivery: Ra 
CV: RRR with interspersed extra beats, II/VI systolic murmur at
USB
PULM: CTAB in anterior fields
ABD: soft, NT, ND
EXT: RLE wrapped in gauze, c/d/I, with large brace overlying,
both feet wrapped in gauze c/d/I including at heels, further 
exam
deferred due to discomfort; 1+ pitting edema in upper and lower
extremies b/l, in thighs, and in sacrum
SKIN: LUE donor site no longer with any ___ discharge, open to 
air
 
Pertinent Results:
ADMISSION LABS:
============
___ 10:20AM BLOOD WBC-15.8* RBC-4.01 Hgb-11.1* Hct-36.6 
MCV-91 MCH-27.7 MCHC-30.3* RDW-15.7* RDWSD-52.0* Plt ___
___ 10:20AM BLOOD Neuts-81.2* Lymphs-8.5* Monos-9.0 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-12.82* AbsLymp-1.35 
AbsMono-1.42* AbsEos-0.00* AbsBaso-0.03
___ 05:10PM BLOOD ___
___ 10:20AM BLOOD Glucose-320* UreaN-35* Creat-1.8*# Na-144 
K-5.7* Cl-107 HCO3-24 AnGap-13
___ 10:23AM BLOOD Lactate-1.6 Creat-1.7* K-4.0
___ 02:00PM URINE Color-Yellow Appear-Cloudy* Sp ___
___ 02:00PM URINE Blood-SM* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-TR* Bilirub-NEG Urobiln-4* pH-6.0 Leuks-LG*
___ 02:00PM URINE RBC-9* WBC->182* Bacteri-MOD* Yeast-NONE 
Epi-38
___ 05:41PM URINE CastHy-19*
___ 11:00AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

INTERVAL LABS:
==========
___ 05:47AM BLOOD ALT-<5 AST-7 LD(___)-207 AlkPhos-127* 
TotBili-0.3
___ 05:47AM BLOOD proBNP-1218*
___ 05:47AM BLOOD Albumin-1.8* Calcium-7.4* Phos-2.8 Mg-1.9 
Iron-14*
___ 05:47AM BLOOD calTIBC-86* VitB12-803 Ferritn-189* 
TRF-66*
___ 12:09PM BLOOD CRP-GREATER TH
___ 04:30AM BLOOD CRP-131.6*

DISCHARGE LABS:
===========
___ 03:35AM BLOOD WBC-8.8 RBC-2.77* Hgb-7.4* Hct-26.1* 
MCV-94 MCH-26.7 MCHC-28.4* RDW-17.2* RDWSD-59.2* Plt ___
___ 03:35AM BLOOD ___
___ 03:35AM BLOOD Glucose-123* UreaN-14 Creat-0.6 Na-146 
K-4.0 Cl-109* HCO3-29 AnGap-8*
___ 04:21AM BLOOD ALT-6 AST-9 LD(LDH)-245 AlkPhos-135* 
TotBili-0.5
___ 03:35AM BLOOD Calcium-8.0* Phos-2.6* Mg-2.3
___ 05:47AM BLOOD calTIBC-86* VitB12-803 Ferritn-189* 
TRF-66*
___ 04:47AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS*
___ 04:59AM BLOOD CRP-117.4*

MICROBIOLOGY:
===========
Blood cultures:
___ were positive for 
MRSA
subsequently ___ had no growth

 SENSITIVITIES: MIC expressed in MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S

Urine:
___ 5:41 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      PSEUDOMONAS AERUGINOSA.    OF TWO COLONIAL MORPHOLOGIES. 
         >100,000 CFU/mL. 
         PREDOMINATING ORGANISM INTERPRET RESULTS WITH CAUTION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S

___  URINE CULTURE (Final ___:  YEAST.    
10,000-100,000 CFU/mL. 

Wound:
___ 9:00 am TISSUE      RIGHT TIBIA #1. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI IN 
PAIRS. 
      Reported to and read back by ___ ___ 1330 ___. 


   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    HEAVY GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 
      ENTEROCOCCUS SP..    RARE GROWTH. 
         Identification and susceptibility testing performed on 
culture # 
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


   FUNGAL CULTURE (Final ___:    NO FUNGUS ISOLATED. 

Culture from ___ grew the same.

___ 9:40 am SWAB      RIGHT LEG LATERL COMPARTMENTS. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         Susceptibility testing performed on culture # ___ 
___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 9:00 am TISSUE      RIGHT TIBIA #3. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI IN 
PAIRS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      Reported to and read back by ___ ___ 1330 ___. 

      SMEAR REVIEWED; RESULTS CONFIRMED. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Susceptibility testing performed on culture # ___ 
___. 
      ENTEROCOCCUS SP..    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
PENICILLIN G----------     2 S
VANCOMYCIN------------ <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


   FUNGAL CULTURE (Final ___:    NO FUNGUS ISOLATED. 

Other:
___ 7:51 am MRSA SCREEN     Site: NARIS (NARE)
      Source: Nasal swab. 
 MRSA SCREEN (Final ___:    No MRSA isolated. 

___  C. difficile PCR (Final ___: NEGATIVE. 

IMAGING:
=======
CXR ___
There is tortuosity of the thoracic aorta, stable.  There has 
been improvement
of the subsegmental atelectasis within the mid lung zones 
bilaterally.  No
large pleural effusions, overt pulmonary edema, or 
pneumothoraces are seen.

U/S SOFT TISSUE ___
No evidence for organized collection.  Edema and swelling only.

TIB/FIB AP LATERAL ___ 
No evidence of bony lysis or periosteal reaction.

KNEE AP LAT OBLIQUE ___
No evidence for lysis or joint effusion.  Soft tissue swelling 
above the patella.

TTE ___
IMPRESSION: Suboptimal image quality. No 2D echocardiographic 
evidence for endocarditis.
The aortic valve is slightly suspicious however. It is thickened 
and also has mild AI. The image quality is not sufficient to 
considerably reduce the probability of endocarditis in this 
patient with high pretest probability.
Compared with the prior TTE (images reviewed) of ___ , 
the findings are similar. The aortic valve structure is similar 
reducing making visualized changes more likely to be age related 
rather then due to a small vegetation.

CXR ___
The tip of the right PICC line projects over the cavoatrial 
junction.

CXR ___
Improved right pleural effusion.  Persistent small left pleural 
effusion and stable, significant left lower lobe collapse.

CXR ___
Lungs are low volume with moderate cardiomegaly.  The widened 
cardiomediastinal silhouette is stable.  Bilateral effusions 
right greater than left are unchanged.  No pneumothorax is seen. 
 Small bilateral effusions are stable.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with diabetes, PVD, 
provoked DVT, hx upper GI bleed, Alzheimer disease, recent 
admission for tib/fib fracture s/p ORIF ___, acute DVT/PE w 
filter, who was admitted on ___ with fever, cough, and vomiting, 
found to have infection from tib/fib incision draining pus, s/p 
OR ___ for I&D/wound vac placement and OR on ___ for R tibia I&D 
and hardware explant, repeat I&D ___, gastroc muscle flap 
placed ___, with hospital course complicated by MRSA 
bacteremia, intraoperative cultures growing MRSA and VSE, and 
___ UTI, ongoing hospitalization in the setting of wound 
management, pseudomonas wound infection, malnutrition, and goals 
of care.

TRANSITIONAL ISSUES:
====================
[] No artificial nutrition, but still full code (see goals of 
care discussion below)

[] Wound care/plastic surgery recs:
-No need for knee immobilizer
-xeroform and dry dressing to be changed every other day to knee 
wound by nursing 
-Continue dilute acetic acid wet to dry dressings TID to RLE 
lateral wound. Rehab to place wound vac once resolution of ___ 
___ staining. Do not place black sponge over exposed
tendon. Place adaptic in between tendon and vac sponge. 
-L thigh donor site : QD betadine paint 

[] Please have patient follow up with Dr. ___ in clinic 
in ___ weeks for wound check. Call ___ if not heard 
back about an appointment. 

[] Follow up blood sugars qachs at ___, consider restarting 
insulin NPH or sliding scale at low dose if BG elevated (was 
being downtitrated in hospital given poor PO intake, on 3U NPH 
at breakfast here, but stopping and restarting home metformin at 
discharge)

[] Vancomycin 1000 mg IV q24hr  Cefepime 2 IV q 12, Projected 
End Date: ___
[] Weekly vancomycin trough (next one is on ___
[] ANTIBIOTIC DOSING/LAB MONITORING:
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
WEEKLY: CBC with differential, BUN, Cr, Vancomycin trough, CRP
All questions regarding outpatient parenteral antibiotics after 
discharge should be directed to the ___ R.N.s at 
___ or to the on-call ID fellow when the clinic is 
closed. 

[] Discharged on warfarin 1mg daily, stable on this regimen. 
Recommend checking INR ___ and adjusting dose accordingly

[] Monitor weights and volume status and consider restarting 
home torsemide if gaining weight/become fluid overloaded on exam 
(stopped at discharge as she remained euvolemic and did not 
require torsemide, likely due to poor PO intake)

ACUTE ISSUES:
=============
#Tib/fib incisional MRSA/VSE infection, septic arthritis
Patient presented to the ED with fever, cough, and vomiting, 
found to have infection from tib/fib incision draining pus, 
taken to OR ___ for I&D and wound vac placement with orthopedics 
and briefly on ortho service. Wound cultures grew MSRA and VSE. 
She went back to the O.R. ___ for right tibial I&D and hardware 
explant. Plastic surgery was consulted given poor wound 
coverage. She returned to the O.R. for right knee septic 
arthritis washout, tibia I&D, negative pressure wound therapy 
with instillation ___, and lastly a washout ___ with 
orthopedics which looked clean. Her final surgery was a gastroc 
flap and skin graft using L thigh tissue ___ with plastic 
surgery. She had 5 days of bedrest while the wound vac was in 
place. This was removed ___. Pain control was achieved with 
Acetaminophen, home Fentanyl patch, and gabapentin. She will be 
unable to ambulate on the RLE given hardware removal. She 
remained in a knee immobilizer with plans to be wheelchair 
bound. Initial discussion with orthopedics and family had been 
for hardware replacement after completion of antibiotics but 
patient preferred to not have another surgery (see below).

#High grade MRSA bacteremia
Blood cultures ___ were 
positive for MRSA and subsequently had no growth. ID was 
consulted. TTE did not show definite endocarditis but there was 
thickening on the aortic valve. TEE was not pursued because it 
would not change her management. Vancomycin was started, D1 
considered ___, the day of the last washout, projected end date 
___. RUE PICC was placed ___. Vancomycin dosing remained 
stable at 1g Q24H. She will need weekly Vancomycin trough, CRP, 
CBC/diff, BUN/Cr and ID followup.

#Likely psuedomonas wound infection 
Developed ___ film and prurulence over RLE wound and LLE donor 
site. Due to high clinical concern for pseudomonas, was started 
on cefepime (___). ID and plastics were consulted and she is 
s/p debridement with plan for continuing cefepime until ___.

# GOC
# Severe Malnutrition 
# Aspiration risk
Multiple goals of care discussions and family meetings were held 
to clarify patient's wishes in the setting of her prolonged 
hospitalization and severe malnutrition, anorexia, poor PO 
intake, electrolyte abnormalities. Dobhoff was placed ___ for 
temporary supplemental nutrition. Patient pulled the Dobhoff out 
___ and ultimately family and patient made the decision not to 
replace any feeding tubes, though replacement of temporary 
feeding tube and PEG tube placement were considered. Geriatrics 
was consulted to help clarify GOC. Patient stated that she would 
not want to have a PEG tube or to undergo another surgery with 
orthopedics and would be okay with being in a wheelchair. Plan 
for discharge to ___ to complete antibiotics. Mirtazapine was 
uptitrated to assist with appetite. Code status discussion on 
___:

"Met with son and HCP, ___ to discuss overall goals and to sign
MOLST form prior to discharge to ___ in the coming days.
Reviewed with ___ what we had discussed earlier and also with
patient's niece, ___: that she was taking in very little food
and fluid. This poor intake was due to her dementia and was
irreversible. Said that amount of food she was taking in would
not sustain her for long, and would lead to decreased wound
healing, kidney injury, low blood pressure, eventually likely 
her
death. Confirmed that ___ did not feel the patient wanted a PEG
tube, he again confirmed very clearly she did not want a feeding
tube and all family members in agreement. He understood that
without this the patient would continue to decline, likely over
weeks. He understood, and said, yes, when it is her time it is
her time. 

Then brought up code status, and reviewed MOLST. I had brought
this up earlier and he and ___ were going to talk about it. 
He
said they had discussed and they would "like to resuscitate 
her."
I reviewed what CPR and intubation meant. I said that in her
condition, which is progressive, I did not think she would
benefit from these measures if something so catastrophic 
happened
that required these measures. I reviewed that she has limited
time left, and if something catastrophic happened like this, and
we were successful in reviving her, it might mean she would 
spend
the lsat days of her life in the ICU on machines. He understood
this, but said he thought she would still like to try this, and
then make the decision to withdraw at that time. 

Based on this discussion kept code status "full code." MOLST 
form
signed with CPR, intubation, but NO artificial nutrition."

#Leukocytosis
Patient had intermittent leukocytosis which peaked at 19.8 
shortly after admission, then reoccurred in the setting of 
multiple surgeries. She had repeat infectious workup which was 
unrevealing. Resolved at time of discharge.

#Multiple pressure ulcers 
Patient had multiple unstageable coccyx ulcers present on 
admission, developed bilateral left and right posterior heel 
ulcers which were followed by wound nursing. Right ankle wound 
was debrided to fascia by plastic surgery. Due to inadequate 
nutrition (see above) and bed bound status. She has multiple 
risk factors for poor wound healing and these should be 
monitored closely. 

#Hypoxia
Patient had intermittent hypoxia early in the hospital course 
which improved with IV Lasix, suspect combination of fluid 
overload atelectasis.

#Loose Stool
Started in close proximity to starting tube feeds and standing 
miralax. C diff was negative.

___
Creatinine was 1.8 on admission, thought prerenal from poor PO 
intake and sepsis. Diuretics were held and she improved to 
baseline around 0.4-0.5 She had one minor ___ after receiving 
multiple doses of IV Lasix. Renal function was stable 
subsequently.

___ UTI: 
UA positive on admission, started ceftriaxone, switched to 
cefepime (D1 = ___, 7d course, last day
___.

#Hypernatremia 
Sodium peaked at 153 soon after admission, likely decreased PO 
intake. Improved with D5W and tube feeds.

#Anasarca 
She became total body fluid overloaded due to poor nutrition as 
above. Albumin <2 last check despite
getting TFs. Also was on mIVF previously. Diuresis was limited 
by fluctuations in electrolytes.

#Acute on Chronic Normocytic Anemia, stable
Hb baseline around 9, no prior iron studies, suspect AoCI. 
Worsened from multiple surgeries, acute illness, and frequent 
phlebotomy. She received 3 blood transfusions this 
hospitalization, most recent ___.

#Acute Pulmonary Embolism:
#Left Femoral Common Vein DVT:
Presented with supratherapeutic INR in setting of recently 
increased warfarin dosing from 2 mg to 3 mg on ___ at rehab. She 
received 5 mg IV Vitamin K on ___ and anticoagulation was then 
held. She initially required a heparin drip for bridging back to 
warfarin given ___, then remained therapeutic for days without 
any anticoagulation, likely ___ poor nutrition as above. She 
then had a lovenox bridge back to warfarin. She had IVF filter 
placed on previous hospitalization which per ___ (does not want 
further invasive procedures) will not be removed. Due to rising 
INR, prior to discharge her warfarin was decreased to 1mg daily 
(was held 2 days prior to discharge), likely due to poor 
nutrition. 
 
#Family Communication
Prior difficulties with niece ___ yelling at staff early in 
hospitalization, subsequently not a problem with improved 
communication. Son ___ is primary HCP with ___ as the 
alternatie but they share decision making. SW was consulted for 
family coping.

#HTN
Initially held home Hydralazine, Lisinopril, Nifedipine to 
decrease pill burden and as patient was not taking PO well. 
Resumed home Hydralazine when patient was able, and then added 
amlodipine.

#Chronic Diastolic CHF: 
Held home Torsemide 5 mg daily to reduce pill burden and 
initially for ___. Received PRN IV Lasix 20 mg. It was difficult 
to get accurate weights due to immobility and difficult to 
obtain accurate output due to incontinence. Torsemide held on 
discharge with poor intake. 

#Rectal prolapse 
Patient has history of rectal prolapse, reduced last 
hospitalization by colorectal surgery. Had spontaneous prolapse 
and resolution once this hospitalization. Colorectal was 
consulted but it had resolved by the time of their assessment. 
No concern for ischemia and patient seemed asymptomatic.

CHRONIC ISSUES:
===============
#DM
Last admission staff spoke with PCP who reported she is a 
brittle diabetic and her diabetic regimen has been liberalized 
to avoid hypoglycemia at the expense of tight control. She was 
continued on home NPH 10 initially, decreased to 5u QAM after 
feeding tube was removed, maintained ISS, and held trulicity and 
metformin. Avoided lantus per PCP due to hypoglycemia. Insulin 
was downtitrated to 3U given decreased PO intake and 
hypoglycemia and stopped at discharge (patient to go back on 
home metformin).

#Dementia: 
Continued Donepezil, delirium precautions, ramelteon HS. Started 
and uptitrated Mirtazapine.

#Chronic back pain: Continued home fentanyl patch, gabapentin, 
Tylenol

#PVD: Continued statin, ASA

#GERD: Continued Pantoprazole, briefly IV when patient was not 
taking PO

Greater than 30minutes spent on discharge planning and 
cordination. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Atorvastatin 40 mg PO QPM 
3. Donepezil 10 mg PO QHS 
4. Fentanyl Patch 12 mcg/h TD Q72H 
5. Gabapentin 100 mg PO BID 
6. HydrALAZINE 20 mg PO TID 
7. Losartan Potassium 50 mg PO BID 
8. Pantoprazole 40 mg PO Q24H 
9. Torsemide 5 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. NIFEdipine (Extended Release) 60 mg PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY 
13. Ramelteon 8 mg PO QHS 
14. Warfarin 3 mg PO DAILY16 
15. MetFORMIN (Glucophage) 500 mg PO DAILY 
16. Docusate Sodium 100 mg PO BID 
17. Potassium Chloride 20 mEq PO DAILY 
18. PreserVision AREDS-2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY 
19. Vitamin D ___ UNIT PO EVERY 2 WEEKS (___) 
20. Trulicity (dulaglutide) 0.75 mg/0.5 mL subcutaneous 1X/WEEK 
21. Bisacodyl 10 mg PR PRN Constipation - Second Line 
22. Fleet Enema (Saline) ___AILY:PRN constipation 
23. Milk of Magnesia 30 mL PO Q3DAYS:PRN Constipation - First 
Line 
24. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Acetic Acid 0.25% Irrig. Soln 1 Appl TP TID wet to dry to 
RLL posterior decubitus    
2.  amLODIPine 10 mg PO DAILY  
3.  CefePIME 2 g IV Q12H  
4.  Mirtazapine 30 mg PO QHS  
5.  OxyCODONE Liquid 5 mg PO Q6H:PRN Pain - Moderate 
RX *oxycodone 5 mg/5 mL 5 ml by mouth q6hprn Disp #*45 
Milliliter Milliliter Refills:*0 
6.  Povidone Iodine ___ Strength 1 Appl TP ASDIR  
7.  Vancomycin 1000 mg IV Q 24H  
8.  Acetaminophen (Liquid) 325-650 mg PO Q6H:PRN Pain - 
Mild/Fever  
9.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
10.  Ramelteon 8 mg PO QHS:PRN breakthrough insomnia after 
mirtazapine 
Should be given 30 minutes before bedtime  
11.  Warfarin 1 mg PO DAILY16  
12.  Docusate Sodium 100 mg PO BID  
13.  Donepezil 10 mg PO QHS  
14.  Fentanyl Patch 12 mcg/h TD Q72H  
15.  HydrALAZINE 20 mg PO TID  
16.  MetFORMIN (Glucophage) 500 mg PO DAILY  
17.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Tib/fib incisional MRSA/VSE infection, septic arthritis
High grade MRSA bacteremia
___ soft tissue infection
Severe Malnutrition 
Aspiration risk
Leukocytosis
pressure ulcers 
___ UTI
Hypernatremia
Anasarca

Secondary:
Rectal prolapse 
Dementia
Hypertension
Chronic diastolic heart failure
IDDM
Chronic pain

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You came back to the hospital because of an infection growing 
from the place where you had surgery to fix your broken leg. The 
infection affected your whole body and made you very sick. 

While you were in the hospital you had cultures of your 
infection and your blood that grew a bacteria called MRSA 
(Staph) and you are receiving antibiotics called Vancomycin for 
this.

You also had a number of surgeries to clean out the infection 
and take away the infected metal and replace muscle over the 
infected area to help it heal. You will not be able to walk on 
your leg because of this. Your wound also developed some 
drainage consistent with an infection called pseudomonas. You 
are receiving an antibiotic called Cefepime for this.

Your nutrition suffered a lot and you had a feeding tube placed 
to help you heal. After some discussion, it was decided that you 
would not want to live with a permanent feeding tube, so we 
stopped doing this and let you eat whenever you want.

When you leave the hospital, please:
- See below for your medicines and followup

It was an absolute pleasure caring for you and we wish you the 
best,
Your ___ Team

 
Followup Instructions:
___